datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc([O:21][H:20])cc1.C[N+](C)(C)CCCc1cccc([O-:10])c1>>COc1ccc([O-:21])cc1.C[N+](C)(C)CCCc1cccc([O:10][H:20])c1 10=20;20,21=21",
"CC(=O)c1c(C(=O)[O-:10])cccc1[N+](=O)[O-].C[N+:21]1([H:20])CCc2cccc3c2C1Cc1ccc(O)c(O)c1-3>>CC(=O)c1c(C(=O)[O:10][H:20])cccc1[N+](=O)[O-].C[N:21]1CCc2cccc3c2C1Cc1ccc(O)c(O)c1-3 10=20;20,21=21",
"Clc1ccc(C2SCC[NH+:21]2[H:20])cc1.c1c[n:10]c[nH]1>>Clc1ccc(C2SCC[NH:21]2)cc1.c1c[n+:10]([H:20])c[nH]1 10=20;20,21=21",
"Clc1ccc(C(Nc2ccccc2)[O-:10])cc1.O=C(C1=CN=CC=C1)[CH:21](C1=CC=C([N+](=O)[O-])C=C1)[H:20]>>Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1.O=C(C1=CN=CC=C1)[CH-:21]C1=CC=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CCCCCCCCCCCCCCC(=O)[O-:10].CCCCCCCCCCCC[NH2+]CCC[NH2+:21][H:20]>>CCCCCCCCCCCCCCC(=O)[O:10][H:20].CCCCCCCCCCCC[NH2+]CCC[NH2:21] 10=20;20,21=21",
"C[N+:21]1([H:20])C[C@@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]21.Cc1ccc(C(=S)[N-:10]c2ccc(Cl)cc2)cc1>>C[N:21]1C[C@@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]21.Cc1ccc(C(=S)[N:10](c2ccc(Cl)cc2)[H:20])cc1 10=20;20,21=21",
"CCS/C(c1cccc(Br)c1)=[O+:21]\[H:20].COC(=O)c1ccc([NH2:10])cc1>>CCSC(c1cccc(Br)c1)=[O:21].COC(=O)c1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"CC[N+](CC)(c1ccccc1)[O:21][H:20].O=C1C=CC(C(=O)[O-:10])=CO1>>CC[N+](CC)(c1ccccc1)[O-:21].O=C1C=CC(C(=O)[O:10][H:20])=CO1 10=20;20,21=21",
"CC[N+:21](CC)(C(C)C=C(c1cccs1)c1cccs1)[H:20].C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C>>CC[N:21](CC)C(C)C=C(c1cccs1)c1cccs1.C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C 10=20;20,21=21",
"NC(C([NH3+])c1ccccc1)=[N+:21](O)[H:20].O=C(CCBr)[O-:10]>>NC(C([NH3+])c1ccccc1)=[N:21]O.O=C(CCBr)[O:10][H:20] 10=20;20,21=21",
"CC(=O)N1C[C@@]2(C(C)C)OC(=O)C[C@H]2[C@@H]1C(=O)[O:21][H:20].CC(C)/[NH+]=C/N(C)c1ccc(-c2c[nH]c[n:10]2)cc1>>CC(=O)N1C[C@@]2(C(C)C)OC(=O)C[C@H]2[C@@H]1C(=O)[O-:21].CC(C)/[NH+]=C/N(C)c1ccc(-c2c[nH]c[n+:10]2[H:20])cc1 10=20;20,21=21",
"CC(C)NC(=S)[S:21][H:20].[NH3+]c1ccccc1c1sc2ccccc2[n:10]1>>CC(C)NC(=S)[S-:21].[NH3+]c1ccccc1c1sc2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"CC1(C)NC(C)(C)[N+]([O:21][H:20])=C1c1ccccc1.Cn1cnc2cc([O-:10])ccc21>>CC1(C)NC(C)(C)[N+]([O-:21])=C1c1ccccc1.Cn1cnc2cc([O:10][H:20])ccc21 10=20;20,21=21",
"CN(CCC[NH3+])CCC[NH2+:21][H:20].COC(=O)c1cc[n:10]cc1>>CN(CCC[NH3+])CCC[NH2:21].COC(=O)c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CCCCCC(C)(C)[NH2+:21][H:20].Cc1ccc(N)cc1-c1cc([NH2:10])ccc1C>>CCCCCC(C)(C)[NH2:21].Cc1ccc(N)cc1-c1cc([NH2+:10][H:20])ccc1C 10=20;20,21=21",
"CC(C)c1cccc[n+:21]1[H:20].O=C(C1c2ccccc2Oc2ccccc21)[O-:10]>>CC(C)c1cccc[n:21]1.O=C(C1c2ccccc2Oc2ccccc21)[O:10][H:20] 10=20;20,21=21",
"CCC(=O)[N:21](OC(=O)/C=C/c1ccccc1)[H:20].Nc1cccc(C(=O)[N-:10]N)c1>>CCC(=O)[N-:21]OC(=O)/C=C/c1ccccc1.Nc1cccc(C(=O)[N:10](N)[H:20])c1 10=20;20,21=21",
"Brc1cccc([O:21][H:20])c1.C[NH+](C)CCCCNc1c2ccccc2[n:10]c2cccc([N+](=O)[O-])c12>>Brc1cccc([O-:21])c1.C[NH+](C)CCCCNc1c2ccccc2[n+:10]([H:20])c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cncc(CCCCC[NH2:10])c1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cncc(CCCCC[NH2+:10][H:20])c1 10=20;20,21=21",
"CNc1c2ccccc2[n:10]c2cccc([N+](=O)[O-])c12.COC(=O)c1[nH]c2ccc(Cl)cc2[n+:21]1[H:20]>>CNc1c2ccccc2[n+:10]([H:20])c2cccc([N+](=O)[O-])c12.COC(=O)c1[nH]c2ccc(Cl)cc2[n:21]1 10=20;20,21=21",
"NC(C[NH3+])C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NC(C[NH3+])C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CN(C(=O)c1ccc([N+](=O)[O-])cc1)[O:21][H:20].O=C1OC2C3CC4C2C4(C(=O)[O-:10])C13Br>>CN(C(=O)c1ccc([N+](=O)[O-])cc1)[O-:21].O=C1OC2C3CC4C2C4(C(=O)[O:10][H:20])C13Br 10=20;20,21=21",
"CC1=CC=CC(=O)C([O-:10])=C1.C[N+:21]1([H:20])CCOCC1>>CC1=CC=CC(=O)C([O:10][H:20])=C1.C[N:21]1CCOCC1 10=20;20,21=21",
"CC(=O)c1cc(C(C)=O)[n:21]([H:20])n1.[NH3+][C@H]1C[C@@H]1[NH2:10]>>CC(=O)c1cc(C(C)=O)[n-:21]n1.[NH3+][C@H]1C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"OCNc1nc(NCO)[n+:21]([H:20])c(NCO)n1.[O-]C(=C1SCc2ccccc21)[O-:10]>>OCNc1nc(NCO)[n:21]c(NCO)n1.[O-]C(=C1SCc2ccccc21)[O:10][H:20] 10=20;20,21=21",
"CCCn1c[n+:21]([H:20])c2ccccc21.CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N-:10]c1nccs1>>CCCn1c[n:21]c2ccccc21.CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N:10](c1nccs1)[H:20] 10=20;20,21=21",
"C[N:10](CCC#N)CCC#N.O=Cc1cc(Cl)ccc1[O:21][H:20]>>C[N+:10](CCC#N)(CCC#N)[H:20].O=Cc1cc(Cl)ccc1[O-:21] 10=20;20,21=21",
"Cc1c[nH+]c([O-])[n:10]c1N.O=C1C2CCC2C(=O)[N:21]1[H:20]>>Cc1c[nH+]c([O-])[n+:10]([H:20])c1N.O=C1C2CCC2C(=O)[N-:21]1 10=20;20,21=21",
"CCCC[N:10](CCCC)c1ccccc1.COc1c(C)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20]>>CCCC[N+:10](CCCC)(c1ccccc1)[H:20].COc1c(C)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1 10=20;20,21=21",
"[H:20][NH+:21]1CCOCC1.[CH-:10]1C2=C(C=CC=C2)SC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)SC1=O.C1COCC[NH:21]1 10=20;20,21=21",
